US04743685
(A) 1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinecarboxylic acid, 2-[[(4-methoxyphenyl)methoxy]-carbonyl]hydrazide
A solution of 4.54 g (0.022 moles) dicyclohexylcarbodiimide in 25 ml dry of dimethylformamide was added to a stirred suspension of 4.90 g (0.020 moles) of 1,4-dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinecarboxylic acid, 4.50 g (0.022 moles) of 4-methoxybenzyl carbazate, 0.12 g (1.0 mmol) of 4-dimethylamino-pyridine and 0.155 g (1.0 mmol) of 1-hydroxybenzotriazole hydrate in 25 ml of dry dimethylformamide at room temperature and stirring was continued overnight. The precipitate was filtered off and the filtrate was evaporated in vacuo. The residue solidified by stirring with ether and aqueous sodium bicarbonate and the solid was collected, washed with water and finally dried in vacuo. The crude material (8.14 g) was extracted in a soxhlet-apparatus with 800 ml CHCl3 (7 hours). 5.70 g (67%) of pure 1,4-dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinecarboxylic acid, 2-[[(4-methoxyphenyl)methoxy]carbonyl]hydrazide crystallized directly from the cold CHCl3 -extract, and an additional impure amount (1.5 g, 18%) of the title compound could be obtained by evaporation of the CHCl3 -solution in vacuo; melting point 174.5°-178° C.

reactant | dicyclohexylcarbodiimide | 0.022 moles, 4.54 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | 1,4-dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinecarboxylic acid | 0.020 moles, 4.90 g | O=C1C=C(NC=C1OCC1=CC=CC=C1)C(=O)O | C13H11NO4
reactant | 4-methoxybenzyl carbazate | 0.022 moles, 4.50 g | C(NN)(=O)OCC1=CC=C(C=C1)OC | C9H12N2O3
reactant | 1-hydroxybenzotriazole hydrate | 1.0 mmol, 0.155 g | O.ON1N=NC2=C1C=CC=C2
catalyst | 4-dimethylamino-pyridine | 1.0 mmol, 0.12 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 1,4-Dihydro-4-oxo-5-(phenylmethoxy)-2-pyridinecarboxylic acid, 2-[[(4-methoxyphenyl)methoxy]-carbonyl]hydrazide | 1.5 g, 18% | COC1=CC=C(C=C1)COC(=O)NNC(=O)C=1NC=C(C(C1)=O)OCC1=CC=CC=C1 | C22H21N3O6
